US09278972B2
Preparation of (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (CLTOL)
The solution of (1S,2S,3R,5S)-3-((6-chloro-5-nitro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLACIN; 0.74 g, 1.8 mmol) in acetic acid (15 mL) was hydrogenated for 5 h in the presence of platinum on carbon (5%; 0.11 g, 1.5 mol %) at 10 bar hydrogen pressure. The catalyst was filtered trough celite and washed with ethyl acetate (5 mL). The analysis of the filtrate confirmed complete conversion of the starting material and 95 area % HPLC purity of the intermediate (1S,2S,3R,5S)-3-((5-amino-6-chloro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLACINA). To the filtrate was then added sodium nitrite (0.14 g, 2 mmol) while stirring in a bath at 15-20° C. After 1 h, the reaction mixture was diluted with ethyl acetate (50 mL), washed with water (2×50 mL) and evaporated under reduced pressure. The solid residue was triturated in n-hexane (10 mL) and filtered to give CLTOL as a grey powder (0.50 g, 71% yield): 96 area % by HPLC; mp 91-95° C.

reactant | (1S,2S,3R,5S)-3-((6-chloro-5-nitro-2-(propylthio)pyrimidin-4-yl)amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 1.8 mmol, 0.74 g | ClC1=C(C(=NC(=N1)SCCC)N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O)[N+](=O)[O-] | C14H21ClN4O6S
reactant | hydrogen | [H][H] | H2
reactant | sodium nitrite | 2 mmol, 0.14 g | N(=O)[O-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | platinum on carbon | 0.11 g | [Pt] | Pt
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2S,3R,5S)-3-(7-chloro-5-(propylthio)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 0.50 g, 71% yield | ClC=1C2=C(N=C(N1)SCCC)N(N=N2)[C@H]2[C@@H]([C@@H]([C@H](C2)OCCO)O)O | C14H20ClN5O4S
